US07691869B2
To a solution of the title A compound in Example 29, 7-(2-bromoethyl)-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-amine (225 mg, 0.817 mmol) and 1-(2,4-difluorophenyl)piperazine (193 mg, 0.976 mmol) in 1 mL of dry acetone is added potassium carbonate (322 mg, 2.44 mmol). The mixture is heated at 50° C. for 24 h, cooled to RT, concentrated in vacuo, and the residue taken up in water. The aqueous mixture is repeatedly extracted with EtOAc, and the combined organic extracts are dried (Na2SO4), filtered and evaporated to dryness. The residue is purified by column chromatography on silica gel, eluting with 2% MeOH in DCM to afford 4-chloro-7-(2-(4-(2,4-difluorophenyl)piperazin-1-yl)ethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine as a yellow solid: 1H NMR (CDCl3) δ 2.68 (m, 4H), 2.77 (t, 2H, J=8.0 Hz), 3.01 (m, 4H), 4.19 (t, 2H, J=8.0 Hz), 4.88 (br s, 2H), 6.36 (d, 1H, J=4.0 Hz), 6.77-6.87 (m, 3H), 6.96 (d, 1H, J=4.0 Hz).

reactant | 7-(2-bromoethyl)-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-amine | 0.817 mmol, 225 mg | BrCCN1C=CC2=C1N=C(N=C2Cl)N | C8H8BrClN4
reactant | 1-(2,4-difluorophenyl)piperazine | 0.976 mmol, 193 mg | FC1=C(C=CC(=C1)F)N1CCNCC1 | C10H12F2N2
reactant | potassium carbonate | 2.44 mmol, 322 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | 4-chloro-7-(2-(4-(2,4-difluorophenyl)piperazin-1-yl)ethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-amine | ClC=1C2=C(N=C(N1)N)N(C=C2)CCN2CCN(CC2)C2=C(C=C(C=C2)F)F | C18H19ClF2N6
